US07402684B2
(4-Iodo-phenyl)-(4-hydroxy-phenyl)-methanone:
To a solution of (4-iodo-phenyl)-(4-methoxy-phenyl)-methanone (1.7 g, 5 mmol in CH2Cl2 (20 mL) was added BBr3 (15 mL, 15 mmol; 1 M in CH2Cl2) at −78° C. The resulting mixture was allowed to warm to rt and stir at rt for 6 h. The mixture was poured onto 50 mL ice-water solution and extracted with CH2Cl2 (3×30 mL). The combined organic layers were washed with water (2×30 mL) and brine (20 mL) and dried over anhy. Na2SO4. The solvent was removed in vacuo to obtain the crude product which was purified by recrystallization from acetone-EtOAc-hexane to provide the title product (1.4 g, 85%) which was directly used for the next step.

reactant | (4-iodo-phenyl)-(4-methoxy-phenyl)-methanone | IC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OC | C14H11IO2
reactant | BBr3 | 15 mmol, 1 M, 15 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (4-Iodo-phenyl)-(4-hydroxy-phenyl)-methanone | 1.4 g, 85% | IC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)O | C13H9IO2
